US04962253
Preparation of Lithium 1-Isopropylindenide
All operations are performed under an inert atmosphere and with dry, degassed solvents. A solution of 20.0 ml (32.0 mmoles) of 1.6 M butyl lithium in hexane is added to a stirred solution of 5.06 g (32.0 mmoles) of 1-isopropylindene in 100 ml of hexane at room temperature. A white precipitate appeared after 30 minutes at room temperature. Filtration after 2 days at room temperature produces 2.8 g of white solid product. The filtrate is concentrated to 20 ml and, after standing at room temperature another week, an additional 1.9 g of product is recovered for a total of 4.7 g (89 percent yield).

reactant | butyl lithium | 32.0 mmoles, 1.6 M, 20.0 ml | C(CCC)[Li]
reactant | 1-isopropylindene | 32.0 mmoles, 5.06 g | C(C)(C)C1C=CC2=CC=CC=C12 | C12H14
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 100 ml | CCCCCC | C6H14
product | Lithium 1-Isopropylindenide | 2.8 g, 89 percent yield | C(C)(C)[C-]1C=CC2=CC=CC=C12.[Li+] | InChI=1S/C12H13.Li/c1-9(2)11-8-7-10-5-3-4-6-12(10)11;/h3-9H,1-2H3;/q-1;+1
